US06433213B1
Crude 5R 1,1-dimethylethyl 6-cyano-5-hydroxy-3-oxohexanoate (about 150 mmoles) is dissolved in the first distillate from the above mixture, allowed to stir at room temperature for about 2 hours, and cooled to about −70° C. Sodium borohydride (6 g) as a solution in 75 mL triglyme is added slowly at between −65° C. to −75° C. After the addition, the reaction mixture is warmed to 15° C. to 25° C., quenched by the addition of acetic acid and concentrated by vacuum distillation. The residue is diluted with methanol and concentrated by vacuum distillation. The residue is dissolved in a mixture of water and ethyl acetate, the layers separated, and the organic layer is concentrated by vacuum distillation. The residue is dissolved with methanol and acetic acid and concentrated by vacuum distillation. The residue is dissolved in ethyl acetate and concentrated by vacuum distillation resulting in crude [R(R*,R*)]-1,1-dimethylethyl 6-cyano-3,5-dihydroxyhexanoate.

reactant | 1,1-dimethylethyl 6-cyano-5-hydroxy-3-oxohexanoate | about 150 mmoles | C(#N)CC(CC(CC(=O)OC(C)(C)C)=O)O | C11H17NO4
reactant | Sodium borohydride | 6 g | [BH4-].[Na+]
solvent | triglyme | 75 mL | COCCOCCOCCOC | C8H18O4
product | 1,1-dimethylethyl 6-cyano-3,5-dihydroxyhexanoate | C(#N)CC(CC(CC(=O)OC(C)(C)C)O)O | C11H19NO4
